US07582543B2
Cadmium oxide (0.127 g, 1 mmol) and dodecylcarboxylic acid (0.500 g) were reacted at 220° C. for 10 min, cooled to 90° C., then a cadmium dodecylcarboxylate (precursor) was formed. Into said system, toluene (10 ml), trioctylphosphine oxide (3.866 g) and trioctylphosphine (3.7 g) were added. Then a 0.05M aqueous solution of sodium sulfide (10 ml) was added. After the system was reacted at 90° C. for 3 h, a clear yellow sol containing CdS nanoparticles was obtained. Said sol has a typical exciton absorption peak of the CdS nanoparticles, can result in a quantum size effect and emit a fairly strong blue light under the irradiation of a UV lamp.

reactant | Cadmium oxide | 1 mmol, 0.127 g | [O-2].[Cd+2]
reactant | dodecylcarboxylic acid | 0.500 g | C(CCCCCCCCCCC)C(=O)O | C13H26O2
product | cadmium dodecylcarboxylate | C(CCCCCCCCCCC)C(=O)[O-].[Cd+2].C(CCCCCCCCCCC)C(=O)[O-] | InChI=1S/2C13H26O2.Cd/c2*1-2-3-4-5-6-7-8-9-10-11-12-13(14)15;/h2*2-12H2,1H3,(H,14,15);/q;;+2/p-2
